US07713996B2
A 3 N aqueous KOH solution (6.5 mL, 19.5 mmol, 3 equiv.) was added to a solution of 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester (2 g, 6.5 mmol, 1 equiv.) in a 1:4 MeOH:tetrahydrofuran solution (20 mL) and the mixture was shaken for 16 hours. The methanol was removed under vacuum and the pH was adjusted to 3 with 3 N aqueous HCl solution. The resulting slurry was diluted with ethyl acetate (20 mL), the organic layer was separated and the aqueous phase was extracted with EtOAc (2×20 mL). The organic layers were combined, dried over Na2SO4 and the solvent was removed under vacuum to afford 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester, 1.68 g (88% yield). LC @215 nm; Rt 1.44: 83%, m/z (ES+): 238 (M-Boc+MeCN+H+.); δH (400 MHz; d6-DMSO) 12.58 (1H, br.s) 7.97 (1H, br.s), 6.94 (1H, d), 3.70 (2H, t), 3.61 (3H, s), 2.75 (2H, t), 1.28 (9H, s).

reactant | KOH | 19.5 mmol, 3 N, 6.5 mL, 3 equiv. | [OH-].[K+]
reactant | 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester | 6.5 mmol, 2 g, 1 equiv. | COC(=O)C1=CC(=C2CCN(C2=C1)C(=O)OC(C)(C)C)OC | C16H21NO5
reactant | MeOH | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester | 88% yield | C(C)(C)(C)OC(=O)N1CCC2=C(C=C(C=C12)C(=O)O)OC | C15H19NO5
